US05166204
15 ml of o-dichlorobenzene was added to a mixture of 0.50 g of 2-(4-methylphenyl)-3a,4,10b,10c-tetrahydro-1H-benzofuro[3,2-e]isoindole-1,3(2H)-dione and 0.75 g of DDQ. The mixture was refluxed for 4 hours. The reaction mixture was mixed with 50 ml of chloroform. The resulting mixture was washed with an aqueous 10% potassium carbonate solution and an aqueous saturated sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from methanol to obtain 0.18 g (yield: 36%) of 2-(4-methylphenyl)-1H-benzofuro-[3,2-d]isoindole-1,3(2H)-dione as light yellow crystals.

reactant | o-dichlorobenzene | 15 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | 2-(4-methylphenyl)-3a,4,10b,10c-tetrahydro-1H-benzofuro[3,2-e]isoindole-1,3(2H)-dione | 0.50 g | CC1=CC=C(C=C1)N1C(C2CC=C3C(C2C1=O)C1=C(O3)C=CC=C1)=O | C21H17NO3
reactant | DDQ | 0.75 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-methylphenyl)-1H-benzofuro-[3,2-d]isoindole-1,3(2H)-dione | 0.18 g, yield: 36% | CC1=CC=C(C=C1)N1C(C2C=CC=C3C2(C1=O)C1=C(O3)C=CC=C1)=O | C21H15NO3
